US04950677
A solution of 5 g of 2-(chloromethyl) 4-ethoxy-3-methylpyridine and 5 g of 5-(trifluoromethyl) 2 benzimidazolethiol in 130 ml of abs. acetone was treated with 5 g of finely ground potassium carbonate and stirred at room temperature under argon for 2 hours. 100 ml of acetone were distilled off in a vacuum, whereupon the remaining portion of the reaction mixture was poured onto ice The crystallized-out product was filtered off and dissolved in methylene chloride. The solution obtained was washed with water, dried and concentrated. The residue was chromatographed on silica gel while eluting using methylene chloride and methylene chloride/ethyl acetate (1:1), with the medium pressure flash chromatography method. 2-[[(4 ethoxy-3-methyl-2-pyridyl) methyl]thio]-5-(trifluoromethyl)benzimidazole which melts at 173°-177° was obtained after recrystallization from ethyl acetate/ether.

reactant | 2-(chloromethyl) 4-ethoxy-3-methylpyridine | 5 g | ClCC1=NC=CC(=C1C)OCC | C9H12ClNO
reactant | 5-(trifluoromethyl) 2 benzimidazolethiol | 5 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[[(4 ethoxy-3-methyl-2-pyridyl) methyl]thio]-5-(trifluoromethyl)benzimidazole | C(C)OC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C17H16F3N3OS
